US07056943B2
2-{1-Benzyl-5-[4-(trifluoromethoxy)phenyl]-1H-indol-3-yl}-2-oxoacetic acid
A mixture of ethyl 2-{1-benzyl-5-[4-(trifluoromethoxy)phenyl]-1H-indol-3-yl}-2-oxoacetate(0.463 g, 0.991 mmol), potassium hydroxide (0.224 g, 3.99 mmol) in THF (5 mL) and water (5 mL) was stirred for 40 minutes at room temperature then poured into excess water, acidified with 2N hydrochloric acid and extracted with ethyl acetate. The organic phase was washed with water and brine, dried over anhydrous magnesium sulfate, and evaporated to dryness. The residue was dried for 15 hours at 80° C. to yield the title compound as a light yellow solid (0.314 g, 78%), mp 169–171° C. A sample was crystallized from acetonitrile for analysis. Mass spectrum (+APCI, [M+H]+) m/z 440; 1HNMR (400 MHz, DMSO-d6): δ13.8–14.2 (br,1H), 8.75 (s, 1H), 8.45 (d, 1H, J=1.5 Hz), 7.75–7.8 (m, 2H), 7.7 (d, 1H, J=8.5 Hz), 7.6 (dd, 1H, J=8.7 Hz), 7.45 (d, 2H, J=8.8 Hz), 7.25–7.35 (m, 5H), and 5.65 ppm (s, 2H).

reactant | ethyl 2-{1-benzyl-5-[4-(trifluoromethoxy)phenyl]-1H-indol-3-yl}-2-oxoacetate | 0.991 mmol, 0.463 g | C(C1=CC=CC=C1)N1C=C(C2=CC(=CC=C12)C1=CC=C(C=C1)OC(F)(F)F)C(C(=O)OCC)=O | C26H20F3NO4
reactant | potassium hydroxide | 3.99 mmol, 0.224 g | [OH-].[K+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | 2-{1-Benzyl-5-[4-(trifluoromethoxy)phenyl]-1H-indol-3-yl}-2-oxoacetic acid | 0.314 g, 78% | C(C1=CC=CC=C1)N1C=C(C2=CC(=CC=C12)C1=CC=C(C=C1)OC(F)(F)F)C(C(=O)O)=O | C24H16F3NO4
